US07615556B2
To a solution of 1-(4-chlorophenyl)-6,6-dimethylpiperazine-2,5-dione (0.9 g, 3.56 mmol) in THF (100 mL) at 0° C., was added LiAlH4 (0.54 g, 14.2 mmol) portionwise. The reaction was stirred at 0° C. for 0.5 h, the reaction was warmed to rt and stirred for 1 h. The reaction was carefully quenched with water, diluted with EtOAc, and added solid NaHCO3. The solution was stirred, filtered, and concentrated to give to give 1-(4-chlorophenyl)-2,2-dimethylpiperazine (0.76 g, 3.38 mmol, 95% yield) as a yellow oil.

reactant | 1-(4-chlorophenyl)-6,6-dimethylpiperazine-2,5-dione | 3.56 mmol, 0.9 g | ClC1=CC=C(C=C1)N1C(CNC(C1(C)C)=O)=O | C12H13ClN2O2
reactant | LiAlH4 | 14.2 mmol, 0.54 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(4-chlorophenyl)-2,2-dimethylpiperazine | 3.38 mmol, 0.76 g, 95% yield | ClC1=CC=C(C=C1)N1C(CNCC1)(C)C | C12H17ClN2
